US04604243
A mixture of 2.28 g (25 mmols) of distilled aniline, 30 mL of acetonitrile, 2.6 mL (31 mmols) of concentrated hydrochloric acid, 30 mL (456 mmols) of distilled acrylonitrile (AN), and 0.36 g (2.5 mmols) of cuprous oxide was stirred for five minutes under nitrogen. A mixture of 2.8 g (31 mmols) of isopropyl nitrite (IPN) and 30 mL of acetonitrile was added dropwise over a period of 20 minutes. The mixture warmed to 45° C. and nitrogen gas evolved. After stirring at ambient temperature for two hours, the dark mixture was worked up to provide an 84% yield of 2-chloro-3-phenylpropionitrile (CPPN).

reactant | aniline | 25 mmols, 2.28 g | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | 31 mmols, 2.6 mL | Cl | ClH
reactant | acrylonitrile | 456 mmols, 30 mL | C(C=C)#N | C3H3N
reactant | isopropyl nitrite | 31 mmols, 2.8 g | N(=O)OC(C)C | C3H7NO2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 2-chloro-3-phenylpropionitrile | 84% yield | ClC(C#N)CC1=CC=CC=C1 | C9H8ClN
